US08044236B2
(5) Preparation of methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamic acid sodium salt (compound No. 6)
A mixture of methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamate (436 mg, 0.869 mmol), methanol (2 ml), tetrahydrofuran (2 ml) and 2N aqueous sodium hydroxide (1.3 ml) was stirred at room temperature for 30 minutes. The precipitated solid was collected by filtration and washed with methanol to give the title compound (390 mg, 88.1%) as a white solid.

reactant | methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamate | 0.869 mmol, 436 mg | C(C)(C)(C)C1=CC=C(COC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)NC(C(=O)OC)=O)C=C1 | C27H26F3NO5
reactant | methanol | 2 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 1.3 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamic acid sodium salt | 390 mg, 88.1% | [Na+].CN(C(C(=O)[O-])=O)C=1C=C(C=CC1OCC1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C27H26F3NO5.Na/c1-26(2,3)20-10-5-17(6-11-20)16-35-23-14-9-19(15-22(23)31(4)24(32)25(33)34)18-7-12-21(13-8-18)36-27(28,29)30;/h5-15H,16H2,1-4H3,(H,33,34);/q;+1/p-1
